US08138189B2
Step 4: 3′-Chloro-4-fluoro-4′-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-biphenyl-3-carbonitrile
In analogy to Example 150, step 2, 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with 3-cyano-4-fluorophenylboronic acid to give the title compound as a colorless foam. MS (m/e, ISP neg. ion)=463.2 [M−H+].

reactant | 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | BrC1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C)Cl | C16H14BrClF3NO2
reactant | 3-cyano-4-fluorophenylboronic acid | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
product | 3′-Chloro-4-fluoro-4′-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-biphenyl-3-carbonitrile | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C)C1=CC(=C(C=C1)F)C#N | C23H17ClF4N2O2
